US08202858B2
5-(2-Amino-4-methyl-phenylamino)-1-methyl-1H-pyrazole-4-carboxylic Acid Ethyl Ester
Tin (II) chloride (86.65 g, 457.0 mmol) was added to a solution of 1-methyl-5-(4-methyl-2-nitro-phenylamino)-1H-pyrazole-4-carboxylic acid ethyl ester from Example E2.1 (28.00 g, 91.4 mmol) in methanol and the mixture heated at reflux for 3 days. The solvent was removed in vacuo and the residue taken up in EtOAc (400 ml) and cooled to 0° C. 35% Ammonia solution was added to pH 14, and the mixture was stirred for 15 min before being filtered through Celite® filter agent. The filtrate was washed with 2M NH3 and brine and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (eluant; 6% methanol:94% dichloromethane rising to 10% methanol:90% dichloromethane) to yield the title compound (12.8 g, 52%).

reactant | Tin (II) chloride | 457.0 mmol, 86.65 g | [Sn](Cl)Cl
reactant | 1-methyl-5-(4-methyl-2-nitro-phenylamino)-1H-pyrazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=NN(C1NC1=C(C=C(C=C1)C)[N+](=O)[O-])C | C14H16N4O4
solvent | methanol | CO | CH4O
product | 5-(2-Amino-4-methyl-phenylamino)-1-methyl-1H-pyrazole-4-carboxylic Acid Ethyl Ester | 12.8 g, 52% | C(C)OC(=O)C=1C=NN(C1NC1=C(C=C(C=C1)C)N)C | C14H18N4O2
